US07482349B2
Preparation of 2-Bromo-4-[(4-methoxy-3-methylphenyl)(oxo)acetyl]benzonitrile
A suspension of 3-bromo-4-cyanobenzoic acid (1.65 g, 7.28 mmol) in thionyl chloride (10 mL) is treated with 3 drops of N,N-dimethylformamide, heated at reflux temperature for 1 h and concentrated in vacuo. This acid chloride residue is re-evaporated 3× with toluene to remove any remaining thionyl chloride. A mixture of 3-methyl-4-methoxybenzyl triphenylphosphonium chloride (6.3 g, 14.55 mmol) in toluene at 0° C. is treated dropwise with n-butyllithium (6.1 mL, 2.5 M in hexanes), allowed to come to room temperature, stirred for 2 h, cooled to 0° C., treated dropwise with a solution of the above-obtained acid chloride in toluene, allowed to come to room temperature, stirred for 2 h, quenched with water and concentrated in vacuo. The resultant residue is dispersed in acetone and water, treated with MgSO4 (7.5 g, 62.5 mmol) and KMnO4 (2.18 g, 13.8 mmol), vigorously stirred at 45° C. for 18 h and filtered. The filtrate is diluted with EtOAc, washed sequentially with water and brine, dried over MgSO4 and evaporated to dryness. This residue is purified by flash chromatography (SiO2, 2/1 hexanes/EtOAc as eluent) to afford the title compound as a yellow solid, 1.8 g (69% yield), identified by HNMR and mass spectral analyses. MS m/e 357 (M+H)+; 1H NMR (400 MHz, DMSO-d6) δ 2.21 (s, 3H), 3.93 (s, 3H), 7.15 (d, J=8.54 Hz, 1H), 7.81 (d, J=1.38 Hz, 1H),7.85 (dd, J=8.54, 2.14 Hz, 1H), 8.03 (dd, J=8.08, 1.52 Hz 1H), 8.18 (d, J=8.08 Hz, 1H), 8.30 (d, J=1.38 Hz, 1H).

reactant | 3-bromo-4-cyanobenzoic acid | 7.28 mmol, 1.65 g | BrC=1C=C(C(=O)O)C=CC1C#N | C8H4BrNO2
reactant | 3-methyl-4-methoxybenzyl triphenylphosphonium chloride | 14.55 mmol, 6.3 g | [Cl-].CC=1C=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC1OC
reactant | n-butyllithium | 2.5 M, 6.1 mL | C(CCC)[Li]
reactant | MgSO4 | 62.5 mmol, 7.5 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | KMnO4 | 13.8 mmol, 2.18 g | [O-][Mn](=O)(=O)=O.[K+]
solvent | thionyl chloride | 10 mL | S(=O)(Cl)Cl | Cl2OS
catalyst | N,N-dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-Bromo-4-[(4-methoxy-3-methylphenyl)(oxo)acetyl]benzonitrile | 69% yield | BrC1=C(C#N)C=CC(=C1)C(C(=O)C1=CC(=C(C=C1)OC)C)=O | C17H12BrNO3
